US05347006
reacting azacyclonol with 4 -chloro-1-[4-(1,1-dimethylethyl)phenyl]-1-butanone to yield terfenadone free-base;

reactant | azacyclonol | C=1C=CC(=CC1)C(C=2C=CC=CC2)(C3CCNCC3)O | C18H21NO
reactant | 4 -chloro-1-[4-(1,1-dimethylethyl)phenyl]-1-butanone | ClCCCC(=O)C1=CC=C(C=C1)C(C)(C)C | C14H19ClO
product | terfenadone | CC(C)(C)C=1C=CC(=CC1)C(=O)CCCN2CCC(CC2)C(C=3C=CC=CC3)(C=4C=CC=CC4)O | C32H39NO2
